US05166204
2.13 g of methyltriphenylphosphonium bromide was suspended in 20 ml of anhydrous tetrahydrofuran. Thereto was dropwise added 4.0 ml of 1.5 M n-butyllithium hexane solution, in 1 minute with stirring at 0° C. The resulting mixture was stirred at 20° C. for 30 minutes. To this reaction mixture being maintained at 25°-30° C. was dropwise added a solution of 1.34 g of 5-methoxy-1-methoxymethyl-2-propionylindole dissolved in 15 ml of anhydrous tetrahydrofuran, in 5 minutes. The resulting mixture was stirred at 20° C. for 1 hour. Then, thereto were added 75 ml of ethyl acetate and 50 ml of water. The organic layer was separated, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography (eluant: n-hexane/ethyl acetate=10/1) to obtain 1.13 g (yield: 85%) of 2-(1-buten- 2-yl)-5-methoxy-1-methoxymethylindole as a colorless oily material.

reactant | n-butyllithium hexane | 1.5 M, 4.0 ml | CCCCCC.C(CCC)[Li]
reactant | 5-methoxy-1-methoxymethyl-2-propionylindole | 1.34 g | COC=1C=C2C=C(N(C2=CC1)COC)C(CC)=O | C14H17NO3
reactant | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 50 ml | O | H2O
catalyst | methyltriphenylphosphonium bromide | 2.13 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 2-(1-buten- 2-yl)-5-methoxy-1-methoxymethylindole | 1.13 g, yield: 85% | C=C(CC)C=1N(C2=CC=C(C=C2C1)OC)COC | C15H19NO2
